US05935714
An autoclave equipped with a stirrer was charged with methanol, vinyl chloride, vinyl acetate, di(2-ethylhexyl) peroxydicarbonate and partially saponified polyvinyl alcohol, and the temperature was elevated to 60° C. with stirring under an atmosphere of nitrogen gas to initiate the reaction, followed by further continuous injection of vinyl chloride to conduct the copolymerization reaction. After release of the residual pressure of the autoclave and cooling, a copolymer slurry was taken out and filtered, followed by washing with methanol three times and further with deionized water twice. Then, the resulting product was filtered and dried to obtain a vinyl chloride-vinyl acetate copolymer powder. This copolymer, methanol and sodium hydroxide were added to a reactor equipped with a cooling pipe, and allowed to react at 40° C. Then, the reaction product was cooled, and acetic acid was added thereto to neutralize unreacted sodium hydroxide. The resulting product was washed with methanol three times and further with deionized water twice, followed by filtering and drying to obtain a vinyl chloride-vinyl acetate-vinyl alcohol copolymer powder.

reactant | vinyl chloride | C(=C)Cl | C2H3Cl
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | di(2-ethylhexyl) peroxydicarbonate | C(=O)(OCC(CCCC)CC)OOC(=O)OCC(CCCC)CC | C18H34O6
solvent | methanol | CO | CH4O
product | vinyl chloride-vinyl acetate copolymer | CC(=O)OC=C.C=CCl | InChI=1S/C4H6O2.C2H3Cl/c1-3-6-4(2)5;1-2-3/h3H,1H2,2H3;2H,1H2
